US08859536B2
5-Bromo-1-(6-(trifluoromethyl)pyridin-3-yl)-1H-indole (83A)
5-Bromo-2-(trifluoromethyl)pyridine (2.075 g, 9.18 mmol) was added to a solution of 5-bromo-1H-indole (1.5 g, 7.65 mmol) and in DMF (20 mL) followed by cesium carbonate (7.48 g, 22.95 mmol), and the mixture was stirred at 90° C. for 15 min. Insoluble solids were filtered, filtrate was concentrated and partitioned between ethyl acetate and water. Organic layer was separated, washed with brine, dried over sodium sulphate and filtered. The filtrate was concentrated in vacuo and purified by flash chromatography using 5% ethyl acetate in pet ether to afford title compound (1.1 g, 42.1%) as an off-white solid. 1H NMR (300 MHz, DMSO-d6): δ 9.09 (d, J=2.4 Hz, 1H), 8.37 (dd, J1=2.4 Hz, J2=8.4 Hz, 1H), 8.11 (d, J=8.4 Hz, 1H), 7.91 (m, 2H), 7.68 (d, J=9.0 Hz, 1H), 7.37 (dd, J=1.8 Hz, J2=8.4 Hz, 1H), 6.82 (d, J=3.0 Hz, 1H).

reactant | 5-Bromo-2-(trifluoromethyl)pyridine | 9.18 mmol, 2.075 g | BrC=1C=CC(=NC1)C(F)(F)F | C6H3BrF3N
reactant | 5-bromo-1H-indole | 7.65 mmol, 1.5 g | BrC=1C=C2C=CNC2=CC1 | C8H6BrN
reactant | cesium carbonate | 22.95 mmol, 7.48 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 5-Bromo-1-(6-(trifluoromethyl)pyridin-3-yl)-1H-indole | 1.1 g, 42.1% | BrC=1C=C2C=CN(C2=CC1)C=1C=NC(=CC1)C(F)(F)F | C14H8BrF3N2
